US08008321B2
2,2,2-Trifluoro-N-[3-(3-methoxy-4-nitrobenzoyl)imidazo[1,5-a]pyridin-1-yl]acetamide
This compound is prepared according to the same process as that described in example 78 by acylation of 1.2 g (3.44 mmol) of (1-aminoimidazo[1,5-a]pyridin-3-yl)(3-methoxy-4-nitrophenyl)methanone hydrochloride with trifluoroacetic anhydride in 1,2-dichloroethane in the presence of triethylamine. 1.08 g of a yellow solid are obtained. Melting point: 228° C.; 1H NMR (d6-DMSO): 4.03 (3H, s), 7.43-7.47 (1H, m), 7.51-7.55 (1H, m), 7.93-7.99 (2H, m), 8.04-8.11 (2H, m), 9.76 (1H, d)

reactant | (1-aminoimidazo[1,5-a]pyridin-3-yl)(3-methoxy-4-nitrophenyl)methanone hydrochloride | 3.44 mmol, 1.2 g | Cl.NC=1N=C(N2C1C=CC=C2)C(=O)C2=CC(=C(C=C2)[N+](=O)[O-])OC
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2,2,2-Trifluoro-N-[3-(3-methoxy-4-nitrobenzoyl)imidazo[1,5-a]pyridin-1-yl]acetamide | 1.08 g | FC(C(=O)NC=1N=C(N2C1C=CC=C2)C(C2=CC(=C(C=C2)[N+](=O)[O-])OC)=O)(F)F | C17H11F3N4O5
